US06140100
A dry 500 mL 3-necked flask equipped with a nitrogen inlet and magnetic stirrer was charged with 3.98 g of 3-(1-hydroxycyclobutyl)-O-(tert-butyltrimethylsilyl)benzyl alcohol and 85 mL of CH2Cl2. The solution was cooled to 0° C. under nitrogen and treated with 15.7 mL of TFA followed by 4.78 mL of triethylsilane. After stirring at 0° C. for 1 h, the solution was allowed to warm to RT. Analysis by tlc (SiO2, 8:2 hexane:EtOAc) after 3.5 h at RT indicated unreacted starting material at Rf =0.15 and a new component at Rf =0.65. The solution was treated with an additional 3 mL of triethylsilane and stirred at RT for 18 h. The solution was cooled to 0° C. and neutralized by slow addition of 30 mL of Et3N. The mixture was concentrated invacuo to give a light yellow liquid which was dissolved in 100 mL of EtOAc. The resulting solution was washed with saturated brine (3×80 mL), dried over anhydrous MgSO4, and concentrated to give a clear liquid. This material was dissolved in 80 mL of anhydrous THF and treated with 60 mL of 1M (n-Bu)4NF (Aldrich) in a 500 mL of 3-necked flask. After stirring at RT for 18 h, the solution was concentrated in vacuo and the residue dissolved in 100 mL of EtOAc. The solution was washed with saturated brine (4×80 mL), dried over anhydrous MgSO4, and concentrated to give a clear oil. The crude product was purified by flash chromatography on 120 g of silica gel (8:2 hexane:EtOAc) to afford 1.29 g (59%) of 3-cyclobutylbenzyl alcohol as a clear liquid.

reactant | CH2Cl2 | 85 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 15.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 4.78 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (n-Bu)4NF | 1M, 60 mL | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | Et3N | 30 mL | CCN(CC)CC | C6H15N
solvent | hexane | CCCCCC | C6H14
product | 3-cyclobutylbenzyl alcohol | 1.29 g, 59% | C1(CCC1)C=1C=C(CO)C=CC1 | C11H14O
